US04593096
5-Bromo-3-methyl-6-phenyl-4-pyrimidinone
To 1.8 g (8.95 mM) of 2-amino-3-N-methyl-6-phenyl-4-pyrimidinone was added 40 ml CH3COOH and 0.535 ml Br2 (1.64 g≈10.3 mM). The reaction mixture was allowed to stir at ambient temperature for 18 hours. The solution was evaporated to dryness and the residual solid azeotroped from EtOH (2X). The solids were heated to reflux with 100 ml of H2O, cooled to 5° and filtered. This procedure was repeated, filtered hot, and allowed to crystallize at room temperature for 18 hours. The crystals were filtered and washed well with H2O to yield 1.0 g (40%) of title compound. Cooling of mother liquors gave an additional 0.6 g (24%) of title compound.

reactant | 2-amino-3-N-methyl-6-phenyl-4-pyrimidinone | 8.95 mM, 1.8 g | NC1=NC(=CC(N1C)=O)C1=CC=CC=C1 | C11H11N3O
reactant | Br2 | 10.3 mM, 0.535 ml, 1.64 g | BrBr | Br2
solvent | CH3COOH | 40 ml | CC(=O)O | C2H4O2
product | 5-Bromo-3-methyl-6-phenyl-4-pyrimidinone | 1.0 g, 40% | BrC=1C(N(C=NC1C1=CC=CC=C1)C)=O | C11H9BrN2O
